US06169091A
6-(N,N-Dimethylamino)-3H-pyrido[3,4-d]pyrimidin-4-one
6-Chloro-3H-pyrido[3,4-d]pyrimidin-4-one was reacted with dimethylamine (2.0 molar solution in methanol) in a pressure vessel at 130° C. for 32 hours. The reaction mixture was concentrated in vacuo and the resulting solid washed with ethyl acetate. This solid was heated in 2-propanol to give a suspension, which was filtered. The filtrate was concentrated in vacuo to give the product (60%).

reactant | 6-Chloro-3H-pyrido[3,4-d]pyrimidin-4-one | ClC1=CC2=C(N=CNC2=O)C=N1 | C7H4ClN3O
reactant | dimethylamine | 2.0 molar | CNC | C2H7N
product | 6-(N,N-Dimethylamino)-3H-pyrido[3,4-d]pyrimidin-4-one | 60% | CN(C)C1=CC2=C(N=CNC2=O)C=N1 | C9H10N4O
